US03970693
To a slurry of 120.2 g. (0.90 mole) of anhydrous aluminum chloride in 54 ml. of carbon disulfide is added 122.6 g. (0.50 mole) of 2-bromo-4'-fluoro-2-methylpropiophenone at 15° to 20°C over 1 hour. The mixture is warmed to 50°C over 1 hour, stirred at 50°C for 3 hours and quenched in ice. The product is extracted into toluene. The toluene layer is washed with aqueous sodium hydroxide and water and concentrated in vacuo to give 5-fluoro-2-methyl-1-indanone.

reactant | aluminum chloride | 0.90 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromo-4'-fluoro-2-methylpropiophenone | 0.50 mole | BrC(C(=O)C1=CC=C(C=C1)F)(C)C | C10H10BrFO
solvent | carbon disulfide | C(=S)=S | CS2
product | 5-fluoro-2-methyl-1-indanone | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
